US06656971B2
Methyl 3-[(2-naphthyl)methoxy]-5-nitrobenzoate.
Methyl 3-hydroxy-5-nitrobenzoate (0.685 g, 3.5 mmol) was dissolved in acetone (75 mL). Potassium carbonate (1.43 g, 10.4 mmol) and 2-bromomethylnaphthalene (0.77 g, 3.5 mmol) were added, and the whole was stirred under reflux for 5 h. Mixture was cooled to room temperature and poured into basic (NaOH, pH 10-11) water. After 1 h, precipitated solid was filtered, washed with water (3×25 mL), and air-dried. Off-white crystals, yield 0.970 g (82%). 1H NMR (DMSO-d6, 400 MHz), δ: 8.24 (s, 1H); 8.14 (s, 1H); 8.05 (s, 1H); 7.99-7.90 (m, 4H); 7.63 (d, J=7.5 Hz, 1H); 7.57-7.50 (m, 2H); 5.51 (s, 2H); 3.92 (s, 3H).

reactant | Methyl 3-hydroxy-5-nitrobenzoate | 3.5 mmol, 0.685 g | OC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H7NO5
reactant | Potassium carbonate | 10.4 mmol, 1.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethylnaphthalene | 3.5 mmol, 0.77 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | water | pH 10-11 | O | H2O
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | Methyl 3-[(2-naphthyl)methoxy]-5-nitrobenzoate | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C19H15NO5
